US07320993B1
N-(8,8-diphenyl-octyl)-3-pyridin-3-yl-acrylamide (Substance 17)
Batch size: 2.7 g (18.0 mmol) 3-(3-pyridyl)-acrylic acid, 5 ml (57.9 mmol) oxalyl chloride, 3.9 ml (28.0 mmol) TEA and 4.0 g (14,0 mmol) 8,8-diphenyloctylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 18.0 mmol, 2.7 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 57.9 mmol, 5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8,8-diphenyloctylamine | 14,0 mmol, 4.0 g | C1(=CC=CC=C1)C(CCCCCCCN)C1=CC=CC=C1 | C20H27N
product | N-(8,8-diphenyl-octyl)-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)C(CCCCCCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C28H32N2O
